US04803218
1-Methyl-5-aminoindole-3-acetonitrile:
To a solution of 8.9 g (0.041 mole) of 1-methyl-5-nitroindole-3-acetonitrile in 600 ml of THF was added 3 g of 10% Pd/C. The mixture was hydrogenated in a Parr apparatus at 50 psi for 6 hours. The resulting mixture was filtered through celite treated with charcoal and filtered again through celite. The solvent was removed in vacuo leaving 7.2 g of the tan solid. This material was used directly without purification for the next step.

reactant | 1-methyl-5-nitroindole-3-acetonitrile | 0.041 mole, 8.9 g | CN1C=C(C2=CC(=CC=C12)[N+](=O)[O-])CC#N | C11H9N3O2
solvent | THF | 600 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 3 g | [Pd] | Pd
product | 1-Methyl-5-aminoindole-3-acetonitrile | 7.2 g | CN1C=C(C2=CC(=CC=C12)N)CC#N | C11H11N3
